US07994317B2
a) Preparation of cis-4-(4,6-dichloro-1,3,5-triazin-2-ylamino)cyclohexanecarboxylic acid
A mixture of cyanuric chloride (493.65 mg, 2.7 mmol, 1 equivalent) in CH3CN/H2O (1/1, 20 ml) was cooled to 0° C. cis-4-aminocyclohexylcarboxylic acid (283.26 mg, 2.7 mmol, 1 equivalent) was added, followed by 1N NaOH (10.7 ml, 2 equivalents). The reaction was stirred at 0° C. for 15 min. LCMS analysis showed the complete consumption of the 2,4,6-trichloro-1,3,5-triazine. The crude product was used in the next step.

reactant | cyanuric chloride | 2.7 mmol, 493.65 mg, 1 equivalent | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | cis-4-aminocyclohexylcarboxylic acid | 2.7 mmol, 283.26 mg, 1 equivalent | N[C@H]1CC[C@H](CC1)C(=O)O | C7H13NO2
reactant | NaOH | 1N, 10.7 ml, 2 equivalents | [OH-].[Na+]
solvent | CH3CN H2O | 20 ml | CC#N.O
product | cis-4-(4,6-dichloro-1,3,5-triazin-2-ylamino)cyclohexanecarboxylic acid | ClC1=NC(=NC(=N1)Cl)N[C@H]1CC[C@H](CC1)C(=O)O | C10H12Cl2N4O2
